### PR TITLE
[Merged by Bors] - feat(NumberTheory/Harmonic): asymptotics of Riemann zeta as s → 1

### PR DESCRIPTION
**Pull request by loefflerd**
Show that the constant term of the Laurent series of Riemann zeta at s = 1 is the Euler-Mascheroni `γ`.

---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/NumberTheory/Harmonic/ZetaAsymp.lean [hunk 1]
```diff
@@ -0,0 +1,336 @@
...
+    rw [← one_mul (term_tsum 1)]
+    apply (tendsto_id.mono_left nhdsWithin_le_nhds).mul
+    have := continuousOn_term_tsum.continuousWithinAt left_mem_Ici
+    exact Tendsto.mono_left this (nhdsWithin_mono _ Ioi_subset_Ici_self)
+
+/-- The function `ζ s - 1 / (s - 1)` tends to `γ` as `s → 1`. -/
+theorem _root_.tendsto_riemannZeta_sub_one_div :
+    Tendsto (fun s ↦ riemannZeta s - 1 / (s - 1)) (𝓝[≠] 1) (𝓝 eulerMascheroniConstant) := by
+  -- We use the removable-singularity theorem to show that *some* limit over `𝓝[≠] (1 : ℂ)` exists,
+  -- and then use the previous result to deduce that this limit must be `γ`.
```
Comment (AlexKontorovich) [inline Mathlib/NumberTheory/Harmonic/ZetaAsymp.lean:304]: Maybe this fact, that `ζ s - 1 / (s - 1)` remains bounded in a neighborhood of `s=1` (that is, the input to the removable singularity theorem), could be isolated as a separate theorem? It can be useful in other contexts.

File: Mathlib/NumberTheory/Harmonic/ZetaAsymp.lean [hunk 2]
```diff
@@ -0,0 +1,336 @@
...
+lemma term_sum_one (N : ℕ) : term_sum 1 N = log (N + 1) - harmonic (N + 1) + 1 := by
+  induction' N with N hN
+  · simp_rw [term_sum, Finset.sum_range_zero, harmonic_succ, harmonic_zero, Nat.zero_eq,
+      Nat.cast_zero, zero_add, Nat.cast_one, inv_one, Rat.cast_one, log_one, sub_add_cancel]
+  · unfold term_sum at hN ⊢
+    rw [Finset.sum_range_succ, hN, harmonic_succ (N + 1),
+      term_one (by positivity : 0 < N + 1)]
+    push_cast
+    ring_nf
+
```
Comment (AlexKontorovich) [inline Mathlib/NumberTheory/Harmonic/ZetaAsymp.lean:116]: My personal preference is to add docstrings to the "main" result of any section. (Feel free to ignore this suggestion.)

File: Mathlib/NumberTheory/Harmonic/ZetaAsymp.lean [hunk 3]
```diff
@@ -0,0 +1,336 @@
...
+      · intro n
+        dsimp only
+        transitivity (n + 1) / (n + 1) ^ s
+        · gcongr
+          linarith
+        · apply le_of_eq
+          rw [rpow_sub_one, ← div_mul, div_one, mul_comm, one_div, inv_rpow, ← div_eq_mul_inv]
+          norm_cast
+          all_goals positivity
+
```
Comment (AlexKontorovich) [inline Mathlib/NumberTheory/Harmonic/ZetaAsymp.lean:215]: Same suggestion, to consider adding a docstring to this?

**Review by AlexKontorovich — APPROVED** [review]
Looks great to me, thanks!

File: Mathlib/NumberTheory/Harmonic/ZetaAsymp.lean (hunk 1 above)
Comment (loefflerd) [reply Mathlib/NumberTheory/Harmonic/ZetaAsymp.lean:304]: Sure! This precise statement isn't actually used in the proof (the version of removable-singularity that's used has an `o( (s - 1)^{-1})` hypothesis instead), but it can certainly be recovered from the stronger result that the function has a limit. I'll add it a as a separate lemma.

Comment (loefflerd) [reply Mathlib/NumberTheory/Harmonic/ZetaAsymp.lean:312]: So, this turned out to be slightly less straightforward than I thought, owing to the need to juggle `𝓝[≠] (1 : ℂ)` and `𝓝 (1 : ℂ)`. What do you think of the two lemmas I added to the file in my latest commit in order to handle this? If you think they're potentially useful, then I can relocate them to somewhere more appropriate in the mathlib hierarchy.

Comment (AlexKontorovich) [reply Mathlib/NumberTheory/Harmonic/ZetaAsymp.lean:312]: Looks good to me, thanks! And yes, the API lemmas seem useful to me; I would relocate them as you suggested.

File: Mathlib/NumberTheory/Harmonic/ZetaAsymp.lean [hunk 4]
```diff
@@ -0,0 +1,373 @@
...
+  · filter_upwards [self_mem_nhdsWithin] with s hs using (zeta_limit_aux1 hs).symm
+  · apply tendsto_const_nhds.sub
+    rw [← one_mul (term_tsum 1)]
+    apply (tendsto_id.mono_left nhdsWithin_le_nhds).mul
+    have := continuousOn_term_tsum.continuousWithinAt left_mem_Ici
+    exact Tendsto.mono_left this (nhdsWithin_mono _ Ioi_subset_Ici_self)
+
+/-- The function `ζ s - 1 / (s - 1)` tends to `γ` as `s → 1`. -/
+theorem _root_.tendsto_riemannZeta_sub_one_div :
+    Tendsto (fun s ↦ riemannZeta s - 1 / (s - 1)) (𝓝[≠] 1) (𝓝 eulerMascheroniConstant) := by
```
Comment (sgouezel) [inline Mathlib/NumberTheory/Harmonic/ZetaAsymp.lean:310]:
```suggestion
    Tendsto (fun (s : ℂ) ↦ riemannZeta s - 1 / (s - 1)) (𝓝[≠] 1) (𝓝 eulerMascheroniConstant) := by
```
Lean doesn't need it, but it can help your reader to see the difference with the previous lemma.

File: Mathlib/NumberTheory/Harmonic/ZetaAsymp.lean [hunk 5]
```diff
@@ -0,0 +1,373 @@
...
+      · exact le_of_eq (div_mul_cancel₀ _ (show ‖g a‖ ≠ 0 by tauto)).symm
+    · simp only [max_mul_of_nonneg _ _ (norm_nonneg _), le_max_iff, le_refl, or_true]
+  · refine (hb hb'.symm).trans ?_
+    simp only [max_mul_of_nonneg _ _ (norm_nonneg _), le_max_iff, le_refl, true_or]
+
+lemma _root_.isBigO_one_nhds_ne_iff {α E F : Type*} [TopologicalSpace α]
+    [Norm E] [SeminormedAddCommGroup F] [One F] [NormOneClass F]
+    {f : α → E} (a : α) :
+    f =O[𝓝[≠] a] (fun _ ↦ 1 : α → F) ↔ f =O[𝓝 a] (fun _ ↦ 1 : α → F) :=
+  isBigO_nhds_ne_iff (by simp)
```
Comment (sgouezel) [inline Mathlib/NumberTheory/Harmonic/ZetaAsymp.lean:363]: Can you move these two lemmas elsewhere (probably a file on asymptotics)? They have nothing specific to the Riemann zeta function.

File: Mathlib/NumberTheory/Harmonic/ZetaAsymp.lean [hunk 6]
```diff
@@ -0,0 +1,373 @@
...
+
+lemma term_of_lt {n : ℕ} (hn : 0 < n) {s : ℝ} (hs : 1 < s) :
+    term n s = 1 / (s - 1) * (1 / n ^ (s - 1) - 1 / (n + 1) ^ (s - 1))
+    - n / s * (1 / n ^ s - 1 / (n + 1) ^ s) := by
+  have hv : ∀ x ∈ uIcc (n : ℝ) (n + 1), 0 < x := by
+    intro x hx
+    rw [uIcc_of_le (by simp only [le_add_iff_nonneg_right, zero_le_one])] at hx
+    exact (Nat.cast_pos.mpr hn).trans_le hx.1
+  calc
+    _ = ∫ x : ℝ in n..(n + 1), (x - n) / x ^ (s + 1) := by rfl
```
[the remark this answers is not in the document]
Comment (AlexKontorovich) [reply Mathlib/NumberTheory/Harmonic/ZetaAsymp.lean:147]: I'm curious: given that the proof is `by rfl`, you still feel it is necessary to explicate the left `_`? Thanks!

**Comment by loefflerd** [comment]
@sgouezel Thank you for the review! I have pushed a new version addressing your comments.

File: Mathlib/NumberTheory/Harmonic/ZetaAsymp.lean [hunk 7]
```diff
@@ -0,0 +1,350 @@
...
+      · exact (lt_of_le_of_lt (by simp) hx.1).le
+      · linarith [mem_Ici.mp hs]
+      · linarith [hx.1]
+      all_goals apply rpow_pos_of_pos ((Nat.cast_nonneg _).trans_lt hx.1)
+  · rw [intervalIntegral.integral_of_le (by linarith)]
+    refine set_integral_nonneg measurableSet_Ioc (fun x hx ↦ div_nonneg ?_ (rpow_nonneg ?_ _))
+    all_goals linarith [hx.1]
+
+/-- First version of the limit formula, with a limit over real numbers tending to 1 from above. -/
+lemma tendsto_riemannZeta_nhds_right : Tendsto (fun s : ℝ ↦ riemannZeta s - 1 / (s - 1))
```
Comment (MichaelStollBayreuth) [inline Mathlib/NumberTheory/Harmonic/ZetaAsymp.lean:284]: Maybe add a `sub_one_div` or so in the name (it's not asymptotics of the zeta function itself...)?

Comment (loefflerd) [reply Mathlib/NumberTheory/Harmonic/ZetaAsymp.lean]: Good point, thanks!
